US07541374B2
Under nitrogen atmosphere, mixture of 50.00 g of pinacolone and 42.00 g of methyl formate was cooled to 0° C., and then 56.00 g of potassium t-butoxide was added to the mixture over the period for 3 hours. During that, the temperature of the mixture was kept below 20° C. After that, the reaction mixture was stirred at 30° C. for 5 hours. Diethyl ether was added to the reaction mixture which was cooled to room temperature, as a result, solid was produced. The solid was collected by filtration, and dried under reduced pressure to give 32.12 g of 1-hydroxy-4,4-dimethyl-1-pentene-3-one potassium salt. 21.61 g of 1-hydroxy-4,4-dimethyl-1-pentene-3-one potassium salt was suspended to 150 ml of ethanol. 6.52 g of hydrazine hydrate was added to the suspension, and then refluxed for 7 hours. 50 ml of water was added to the reaction mixture which was cooled to room temperature, and the mixture was concentrated to 40 ml under reduced pressure. The concentrated solution was extracted by ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 6.83 g of 3-t-butyl-1H-pyrazole.

reactant | 1-hydroxy-4,4-dimethyl-1-pentene-3-one potassium salt | 21.61 g | [K].OC=CC(C(C)(C)C)=O
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | hydrazine hydrate | 6.52 g | O.NN
solvent | water | 50 ml | O | H2O
product | 3-t-butyl-1H-pyrazole | 6.83 g | C(C)(C)(C)C1=NNC=C1 | C7H12N2
